US07635684B2
To a solution of diethyl dimethylmalonate (3 g) in ethanol (5 mL) was added a solution of sodium hydroxide (0.64 g) in water (2 mL), and the mixture was stirred at room temperature for 5 days. The reaction mixture was concentrated under reduced pressure, and the residue was acidified by addition of 2 mol/L hydrochloric acid. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give mono-ethyl dimethylmalonate (2.43 g). To a solution of the obtained mono-ethyl dimethylmalonate (1 g) in N,N-dimethylformamide (20 mL) were added 1-(benzyloxycarbonyl)piperazine (1.38 g), 1-hydroxybenzotriazole (0.93 g), triethylamine (1.31 mL) and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (2.4 g), and the mixture was stirred at room temperature for 2 days. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with a saturated aqueous sodium hydrogen carbonate solution, water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1-2/1) to give 1-benzyloxycarbonyl-4-[2-ethoxycarbonyl-2-(methyl)propionyl]piperazine (1.77 g). This material was dissolved in ethanol (5 mL). To the solution was added 2 mol/L aqueous sodium hydroxide solution (2.93 mL), and the mixture was stirred at 55° C. overnight. The reaction mixture was poured into water, and the resulting mixture was washed with diethyl ether. The aqueous layer was acidified by addition of 2 mol/L hydrochloric acid, and the mixture was extracted with diethyl ether. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (0.28 g).

reactant | mono-ethyl dimethylmalonate | 1 g | CC(C(=O)OCC)(C(=O)[O-])C
reactant | 1-(benzyloxycarbonyl)piperazine | 1.38 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 1-hydroxybenzotriazole | 0.93 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 2.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 1.31 mL | C(C)N(CC)CC | C6H15N
product | 1-benzyloxycarbonyl-4-[2-ethoxycarbonyl-2-(methyl)propionyl]piperazine | 1.77 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(C)(C)C(=O)OCC)=O | C19H26N2O5
